US07977331B1
A solution of 2-(2-bromophenyl)ethanol (3.10 g, 15.4 mmol), 3,4-dihydro-2H-pyran (1.70 ml, 18.6 mmol) and p-toluenesulfonic acid monohydrate (10.0 mg, 5.35 mmol) in chloroform (30 ml) was stirred at room temperature for 1 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium carbonate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=30:1-10:1) to give 2-[2-(2-bromophenyl)ethoxy]tetrahydropyran (3.58 g, yield 81.7%).

reactant | 2-(2-bromophenyl)ethanol | 15.4 mmol, 3.10 g | BrC1=C(C=CC=C1)CCO | C8H9BrO
reactant | 3,4-dihydro-2H-pyran | 18.6 mmol, 1.70 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 5.35 mmol, 10.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[2-(2-bromophenyl)ethoxy]tetrahydropyran | 3.58 g, yield 81.7% | BrC1=C(C=CC=C1)CCOC1OCCCC1 | C13H17BrO2
